US08431607B2
A dried, 25 mL round-bottom flask equipped magnetic stirring bar is cooled to room temperature under a stream of nitrogen. To this is added (−)-DIP-Chloride (6.76 mmol, 2.17 g, 1.2 eq) and THF (10 mL), and the mixture is cooled to −25° C., followed by the addition of methyl 4-(3-methoxyphenyl)-4-oxobutanoate (5.63 mmol). The resulting mixture is then stirred at −20° C. to −30° C. for 10 h. Then, diethanolamine (12.39 mmol, 2.2 eq) is added at −20° C., and the mixture is warmed to room temperature and stirred overnight. This mixture is then filtered, evaporated, and the residue is purified on silica gel (0-33% ethyl acetate in hexane) to give (S)-methyl 4-hydroxy-4-(3-methoxyphenyl)butanoate (985 mg, 79%; >95% based on recovered starting material) as a clear colorless oil. 1H NMR (CDCl3) δ 7.33-7.27 (m, 1H), 6.92-6.84 (m, 3H), 5.52-5.46 (m, 1H), 3.82 (s, 1H), 3.48 (s, 1H), 2.71-2.61 (m, 3H), 2.26-2.12 (m, 1H).

reactant | (−)-DIP-Chloride | 6.76 mmol, 2.17 g, 1.2 eq | B([C@@H]1CC2CCC([C@H]1C)C2(C)C)([C@@H]3CC4CCC([C@H]3C)C4(C)C)Cl | C22H38BCl
reactant | methyl 4-(3-methoxyphenyl)-4-oxobutanoate | 5.63 mmol | COC=1C=C(C=CC1)C(CCC(=O)OC)=O | C12H14O4
reactant | diethanolamine | 12.39 mmol, 2.2 eq | N(CCO)CCO | C4H11NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-methyl 4-hydroxy-4-(3-methoxyphenyl)butanoate | 985 mg | O[C@@H](CCC(=O)OC)C1=CC(=CC=C1)OC | C12H16O4
